US07947686B2
Step 3. Preparation of 5-(3,5-difluoro-benzenesulfonyl)-4,5,6,7-tetrahydro-2H-pyrazolo[4,3-c]pyridin-3-ylamine [(XIII), Ra=Rb=H, R=3,5-difluorophenyl]
3-Amino-5-(3,5-difluoro-benzenesulfonyl)-4,5,6,7-tetrahydro-pyrazolo[4,3-c]pyridine-2-carboxylic acid ethyl ester (45.4 g, 117.5 mmol) was dissolved in a mixture of dichloromethane (200 mL) and methanol (900 mL) then triethylamine (200 mL) was added. The solution was stirred at room temperature for 2 days and then evaporated to dryness. The solid was treated with diethylether (1 L), stirred for 1 hour, filtered and washed with diethylether. After drying in vacuo the title compound was obtained as white solid (34.68 g, 94%).

reactant | 3-Amino-5-(3,5-difluoro-benzenesulfonyl)-4,5,6,7-tetrahydro-pyrazolo[4,3-c]pyridine-2-carboxylic acid ethyl ester | 117.5 mmol, 45.4 g | C(C)OC(=O)N1N=C2C(CN(CC2)S(=O)(=O)C2=CC(=CC(=C2)F)F)=C1N | C15H16F2N4O4S
reactant | triethylamine | 200 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | methanol | 900 mL | CO | CH4O
product | 5-(3,5-difluoro-benzenesulfonyl)-4,5,6,7-tetrahydro-2H-pyrazolo[4,3-c]pyridin-3-ylamine | 34.68 g, 94% | FC=1C=C(C=C(C1)F)S(=O)(=O)N1CC=2C(CC1)=NNC2N | C12H12F2N4O2S
